US06255496B1
3-[4-[2-(N-Dodecyl-N-methylamino)ethoxy]-2-methoxyphenyl]propanoic acid, hydrochloride
3-[4-[2-(N-Dodecyl-N-methylamino)ethoxy]-2-methoxyphenyl]propanoic acid, methyl ester (468 mg, 1.07 mmol) was saponified as described in the preparation of 3-[4-[2-(N-dodecyl-N-methylamino)ethoxy]phenyl]propanoic acid, hydrochloride and afforded the title compound (280 mg, 62%) as a white solid.

reactant | 3-[4-[2-(N-Dodecyl-N-methylamino)ethoxy]-2-methoxyphenyl]propanoic acid, methyl ester | 1.07 mmol, 468 mg | C(CCCCCCCCCCC)N(C)CCOC1=CC(=C(C=C1)CCC(=O)OC)OC | C26H45NO4
reactant | 3-[4-[2-(N-dodecyl-N-methylamino)ethoxy]phenyl]propanoic acid, hydrochloride | Cl.C(CCCCCCCCCCC)N(C)CCOC1=CC=C(C=C1)CCC(=O)O
product | 3-[4-[2-(N-Dodecyl-N-methylamino)ethoxy]-2-methoxyphenyl]propanoic acid, hydrochloride | 280 mg, 62% | Cl.C(CCCCCCCCCCC)N(C)CCOC1=CC(=C(C=C1)CCC(=O)O)OC | InChI=1S/C25H43NO4.ClH/c1-4-5-6-7-8-9-10-11-12-13-18-26(2)19-20-30-23-16-14-22(15-17-25(27)28)24(21-23)29-3;/h14,16,21H,4-13,15,17-20H2,1-3H3,(H,27,28);1H
